### PR TITLE
feat(Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean): phase semantics of linear logic

### PR DESCRIPTION
**Pull request by tannerduve**
# Phase semantics for Classical Linear Logic

This file develops the phase semantics for Classical Linear Logic (CLL), providing an
algebraic interpretation of linear logic propositions in terms of phase spaces.

Phase semantics is a denotational semantics for linear logic where
propositions are interpreted as subsets of a commutative monoid, and logical operations
correspond to specific set-theoretic operations.

## Main definitions

* `PhaseSpace`: A commutative monoid equipped with a distinguished subset ⊥
* `PhaseSpace.orthogonal`: The orthogonal `X⫠` of a set X
* `PhaseSpace.isFact`: A fact is a set that equals its biorthogonal closure
* `Fact`: The type of facts in a phase space
* `Fact.neg`: The negation/dual of a fact (`Gᗮ`)
* `Fact.tensor`, `Fact.parr`: The multiplicative connectives (⊗, ⅋)
* `Fact.linImpl`: Linear implication between facts (⊸)
* `Fact.withh`, `Fact.oplus`: The additive connectives (&, ⊕)
* `Fact.bang`, `Fact.quest`: The exponentials (!, ʔ)
* `PhaseSpace.I`: The set of idempotents belonging to 1
* `PhaseSpace.interpProp`: Interpretation of CLL propositions as facts in a phase space

## Main results

* `PhaseSpace.triple_orth`: The triple orthogonal equals the orthogonal (X⫠⫠⫠ = X⫠)
* `PhaseSpace.biorthogonalClosure`: The biorthogonal operation forms a closure operator
* `PhaseSpace.orth_iUnion`: Orthogonal of union equals intersection of orthogonals
* `PhaseSpace.sInf_isFact`: Facts are closed under arbitrary intersections
* `PhaseSpace.biorth_least_fact`: The biorthogonal closure gives the smallest fact containing a set
* `Fact.tensor_of_par`, `Fact.par_of_tensor`: De Morgan duality between tensor and par

## TODO
- Soundness theorem
- Completeness theorem

## References

* [J.-Y. Girard, *Linear logic*][Girard1987]
* [J.-Y. Girard, *Linear Logic: its syntax and semantics*][Girard1995]

### CODE REVIEW

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,281 @@
...
+  | .top          => (Set.univ : Set M)
+  | .bot          => oneSet⫠
+  | .tensor X Y   => ((interp v X) * (interp v Y))⫠⫠
+  | .parr    X Y   => (((interp v X)⫠) * ((interp v Y)⫠))⫠
+  | .oplus  X Y   => ((interp v X) ∪ (interp v Y))⫠⫠
+  | .with   X Y   => (interp v X) ∩ (interp v Y)
+  | .bang   X     => ((interp v X) ∩ I)⫠⫠
+  | .quest  X     => (((interp v X)⫠) ∩ I)⫠
+
+@[inherit_doc] scoped notation:max "⟦" P "⟧" v:90 => interp v P
```
Comment (thomaskwaring) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: I'm trying to figure out notation for this also, & your choice is definitely standard in pen-and-paper presentations — the problem I ran into was that I want to interpret propositions in the Heyting algebra of {Propositions} / equivalence, so the notation `⟦P⟧` already has meaning as an equivalence class (and is used elsewhere). Do you think this could become a problem? Possibly not, given that `⟦P⟧canonicalValuation = ⟦P⟧`, but I'm cautious about confusing lean...

Comment (tannerduve) [reply Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: hm im not sure. I haven't had issues using this

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,592 @@
...
+
+@[inherit_doc] scoped postfix:max "⫠" => orthogonal
+
+-- ## Properties of orthogonality
+
+@[grind, simp] lemma orthogonal_def (X : Set P) : X⫠ = {m | ∀ x ∈ X, m * x ∈ bot} := rfl
+
+/--
+The orthogonal operation is antitone: if X ⊆ Y then Y⫠ ⊆ X⫠.
+-/
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: style nit: I think if the docstring can fit on a single line it is more readable to do so.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,592 @@
...
+
+/--
+A fact is a subset of a phase space that equals its biorthogonal closure.
+-/
+def isFact (X : Set P) : Prop := X = X⫠⫠
+
+/--
+The type of facts in a phase space.
+-/
+structure Fact (P : Type*) [PhaseSpace P] where
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean:144]: I find it mildly confusing to have another class called `Fact` since Mathlib also uses this name unscoped, but maybe it's fine since this is namespaced.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,592 @@
...
+  /-- The underlying set that is a fact -/
+  (carrier : Set P)
+  (property : isFact carrier)
+
+instance : SetLike (Fact P) P where
+  coe := Fact.carrier
+  coe_injective' := fun p q h => by cases p; cases q; congr
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]:
```suggestion
  coe_injective' _ _ _ := by grind [cases Fact]
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,592 @@
...
+/-- The fact given by the dual of G. -/
+@[simps!] def dualFact (G : Set P) : Fact P := Fact.mk_dual (G⫠) G rfl
+
+lemma dual_dual_subset_Fact_iff {G : Set P} {H : Fact P} : G⫠⫠ ⊆ H ↔ G ⊆ H := by
+  constructor
+  · intro h
+    apply Subset.trans (orth_extensive _) h
+  · intro h
+    rw [H.eq]
+    exact orth_antitone <| orth_antitone <| h
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: A little golfing. Better `grind` rules might eliminate the rewrite, but I found it tricky with the coercion.
```suggestion
  constructor <;> rw [H.eq] <;> grind
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,592 @@
...
+/-- In a phase space, `G⫠⫠` is the smallest fact containing `G`. -/
+lemma biorth_least_fact (G : Set P) :
+      ∀ {F : Set P}, isFact F → G ⊆ F → G⫠⫠ ⊆ F := by
+  let c : ClosureOperator (Set P) := biorthogonalClosure
+  have h_min :
+      ∀ {F : Set P}, isFact F → G ⊆ F → G⫠⫠ ⊆ F := by
+    intro F hF hGF
+    have hF_closed : c.IsClosed F := by
+      have : F = c F := by simpa [isFact, c] using hF
+      exact (c.isClosed_iff).2 this.symm
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: A bit more readable to not nest `have`:
```suggestion
    have : F = c F := by grind [isFact]
    have hF_closed : c.IsClosed F := (c.isClosed_iff).2 this.symm
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,592 @@
...
+    simpa [c] using ClosureOperator.closure_min hGF hF_closed
+  apply h_min
+
+/-- `0` is the least fact (w.r.t. inclusion). -/
+lemma zero_least_fact :
+    ∀ {F : Set P}, isFact F → (0 : Fact P).carrier ⊆ F := by
+  intro F hF
+  have h := biorth_least_fact (G := (∅ : Set P)) hF
+              (by simp)
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: No need for a line break:
```suggestion
  have h := biorth_least_fact (G := (∅ : Set P)) hF (by simp)
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,592 @@
...
+lemma Fact.eq (G : Fact P) : G = (G : Set P)⫠⫠ := G.property
+
+@[simp] lemma mem_dual {G : Fact P} : p ∈ G⫠ ↔ ∀ q ∈ G, p * q ∈ PhaseSpace.bot := Iff.rfl
+
+lemma of_Fact {G : Fact P} {p : P}
+    (hp : ∀ q, (∀ r ∈ G, q * r ∈ PhaseSpace.bot) → p * q ∈ PhaseSpace.bot) : p ∈ G := by
+  rw [← SetLike.mem_coe, G.eq]
+  simpa only [mem_dual] using hp
+
+@[grind, simp] lemma mem_carrier (G : Fact P) : G.carrier = (G : Set P) := rfl
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: For `grind` annotations, it is preferable that they are scoped and give the specific pattern versus being inferred.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,592 @@
...
+      intro y hy
+      exact hm y (Or.inl hy)
+    have hmHbi : m ∈ ((H : Set P)⫠⫠) := by
+      intro y hy
+      exact hm y (Or.inr hy)
+    have hGeq : (G : Set P) = (G : Set P)⫠⫠ := G.property
+    have hHeq : (H : Set P) = (H : Set P)⫠⫠ := H.property
+    have hmG : m ∈ (G : Set P) := by rw [hGeq]; exact hmGbi
+    have hmH : m ∈ (H : Set P) := by rw [hHeq]; exact hmHbi
+    exact ⟨hmG, hmH⟩
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: If those memberships are common enough, consider making them forward rules, then I think the entire proof becomes just `grind`. Here is what can be done without that:
```suggestion
  · grind
  · intro _
    have : m ∈ ((G : Set P)⫠⫠) := by grind
    have : m ∈ ((H : Set P)⫠⫠) := by grind
    grind [Fact.eq]
```

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,592 @@
...
+    rw [dual_dual_subset_Fact_iff]
+    simp only [Set.subset_def, coe_one, SetLike.mem_coe, Set.mem_mul,
+      forall_exists_index, and_imp]
+    rintro _ q hq r hr rfl
+    apply of_Fact _
+    intros s hs
+    rw [mul_assoc]
+    refine hq _ ?_
+    rw [mul_comm]
+    exact hs _ hr
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean]: With more thought, you could eliminate the the lines above, but this is a start:
```suggestion
    grind [of_Fact, SetLike.mem_coe, Set.mem_mul]
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]
I am not too familiar with the material, but have commented on the usage of `grind` and some other style. It is important for performance, maintenance, and general usefulness that we try to use as specific of `grind` patterns as we can. The suggestions I've made are not exhaustive, but I think headed in the right direction.

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean (hunk 3 above)
Comment (tannerduve) [reply Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean:144]: Yeah, same. I figured namespaceing it would remove ambiguity but I think its needed since a Fact is a central concept here and that's really the only name for it.

**Comment by tannerduve** [comment]
thanks for these, I do still need to read up on grind. sometimes I just call it to see if it works haha.

**Comment by chenson2018** [comment]
> thanks for these, I do still need to read up on grind. sometimes I just call it to see if it works haha.

Well I'm not that much better, I just try lots of annotations haha. This is my anecdotal, incomplete checklist, working backwards from the end of proof branches:
- first write everything without grind annotations 
- add `=` annotations to definitions and `_=_` to notation lemmas, which are probably safe
- try backing up from anything that uses `exact`, `cases`, `congr`, etc.
- Move from `simp` and `rw` to `grind`. 
- In some cases where `simp` has unused arguments or you need to select data in a forward way, using `have` at the beginning of the proof may work. 
- Look at what `grind` rules for lemmas defined in this file are used repeatedly (and have no danger of recursion) and move them to annotations

**Comment by tannerduve** [comment]
sounds good. since this PR is getting long I won't add more to it, but for soundness/compelteness there are some more lemmas I want to add, but these will go in a separate PR. it's in a state to be reviewed now I think

File: Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,557 @@
...
+
+/-- The biorthogonal operation is extensive: X ⊆ X⫠⫠ for any set X. -/
+lemma orth_extensive (X : Set P) : X ⊆ X⫠⫠ := by
+  grind
+
+/-- The triple orthogonal equals the orthogonal: X⫠⫠⫠ = X⫠. -/
+lemma triple_orth (X : Set P) : X⫠⫠⫠ = X⫠ := by
+  grind
+
+lemma triple_dual {G : Set P} : G⫠⫠⫠⫠ = G⫠⫠ := triple_orth G⫠
```
Comment (chenson2018) [inline Cslib/Logics/LinearLogic/CLL/PhaseSemantics/Basic.lean:106]: Is the only difference from the above lemma the implicit argument?

**Comment by chenson2018** [comment]
I accidentally pushed a commit here, I had meant to add it to a branch I could link to show my suggestions. These are the changes it has:
- a bit more `grind`ing, and scoping the annotations
- make the comments dividing sections into docstring headers
- have spaces between all declarations
- remove the unnamed section spanning the file
- remove some of the uses of braces

I have the general feeling we could do better with some of the coercion stuff and interacting with `grind`, but I don't want to spend too much time on it at the moment.

Again, the commit was accidental and not meant to be a unilateral decision, if anything seems wrong change it back and let me know, sorry!

**Comment by tannerduve** [comment]
> I accidentally pushed a commit here, I had meant to add it to a branch I could link to show my suggestions. These are the changes it has:
> 
> * a bit more `grind`ing, and scoping the annotations
> * make the comments dividing sections into docstring headers
> * have spaces between all declarations
> * remove the unnamed section spanning the file
> * remove some of the uses of braces
> 
> I have the general feeling we could do better with some of the coercion stuff and interacting with `grind`, but I don't want to spend too much time on it at the moment.
> 
> Again, the commit was accidental and not meant to be a unilateral decision, if anything seems wrong change it back and let me know, sorry!

no prob. the changes look fine, thanks

**Comment by fmontesi** [comment]
I think this looks pretty good now, so I'm merging it. We can apply edits if necessary starting from this base.
